Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Altered mental status
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ yo male w/ PMHx of chorea-acanthocytosis for
which he is followed in neurology clinic, question first time
seizure in ___ not on treatment who presents with a witnessed
seizure lasting about 5 minutes at 8:30am in his bed. There are
no further details regarding the semiology of the event but
sounds like likely GTC. He presents to the ED with
unresponsiveness thought to be post ictal state. The patient was
not accompanied by family and facility not answering so unable 
to
get further collateral. He is unable to operate his ipad at this
time given mental status in order to get further information 
from
the patient. 

Per his last clinic note:
His chorea-acanthocytosis symptoms began ~ age ___
with hand clumsiness, dysphagia, and lip/tongue biting. His most
problematic symptom has been dysphagia with an inpatient
admission resulting in ___ for dysphagia c/b oxygen
desaturation. He previously declined tracheostomy. 

Past seizure event: 
He had a possible first "seizure" on ___ found lying in 
his
bed. His family is unsure how long the event lasted (they are
unclear what it looked like). Per nursing staff that observed 
it,
Lips were quivering, eyes partially open, eyes rolled up into 
his
head. Unclear if he had body shaking. Placed on 5L O2 for desat
for ___ mins. Immediately after this event he was able to open
his eyes but was lethargic and would quickly fall asleep.
Returned to baseline after about a half hour or so. 
Was reportedly confused for ~ 45 minutes afterwards (not
responding). Then returned to baseline. He was not treated for 
it
or hospitalized. 

 
Past Medical History:
Neuroacanthocytosis(dx with low chorine protein by Western Blot) 

Periodic limb movements                                     
Sleep apnea                                                    
Sialorrhea                                                      
PEG Tube
All teeth removed ___ recurrent injuries from biting             


 
Social History:
___
Family History:
- Father has ___ disease, onset at age ___. Mother has 
diabetes.  
- Father is from ___ and mother from ___.  
- At a meeting, they met two other families from ___ who 
also had chorea-acanthocytosis.
- Served in active duty in the ___ Army. Received an 
honorable discharge in ___. Later worked at ___.
- Was an avid runner, and ran several marathons. Also an avid 
boxing fan.
- Wrote an autobiography notable for determination not to let 
his disease "break him." An excerpt: "Years ago I made a silent 
promise to myself denying choreacanthocytosis the chance to 
define my life and although it has laid claim to numerous small 
victories, I am still here and willing to go into battle." 
 
Physical Exam:
Admission Exam:
General: eyes closed, does not open to tactile or verbal
stimulation. Some flutter of eye lids with sternal rub. Global
exam improved over next ___ minutes
HEENT: NC/AT, no scleral icterus noted, unable to assess oral
pharynx given resistance to opening mouth
Neck: Supple, no nuchal rigidity
Cardiac: warm and well perfused
Extremities: No cyanosis, clubbing or edema bilaterally
Skin: profuse dry skin

Neurologic:

-Mental Status: eyes closed. eventually would briefly open eyes
open verbal request indicating understanding however unable to
keep them open longer than a few seconds. Intermittently would
fall asleep with snoring but able to be aroused again. Was able
to show left thumb. attempted to stick out tongue but could not
open mouth. non verbal at baseline. 

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. unable to assess vision
III, IV, VI: Unable to assess EOM given eyes closed and
intermittently sleeping
V: unable to assess Facial sensation
VII: No facial droop, facial musculature symmetric. no teeth
causing dysmorphic appearing face.
VIII: Hearing intact to voice given following verbal commands.
Unclear each ear compared to the other
IX, X: Unable to assess if palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally. Was able to
follow this command
XII: unable to see tongue given inability to open mouth. Unsure
if baseline. 

-Motor: Decreased bulk throughout. Despite intermittently 
falling
asleep and not opening eyes, he was able to participate in
confrontational strength testing. Full throughout though
examination was simplified in order to optimize effort. 
No adventitious movements, such as tremor, noted at rest or with
activation. 

-Sensory: with draws to noxious stim on left lower foot but not
right. Withdrew bilateral upper

-DTRs:
  Bi ___ Pat Ach

L  2   2    2   1

R  2   2    2   1
-Coordination: unable to assess

-Gait: deferred

Discharge Exam:
===============

MS: Patient is alert awake, in no acute distress.  Able to speak 
one word at a time (Yes, Hospital) but otherwise non-verbal. 
Answers questions with nodding/shaking head or with ipad. Able 
to communicate by typing on his iPAD. Follows commands. Oriented 
to location and date and year. 

-Cranial Nerves:  PERRL 3>2.  VFF to confrontation. Extraocular 
movements are full without clear impairment in upgaze. Severe 
hypomimia. Severe dysphonia (mutters "yes" "hospital" ___ 
with very soft voice." Mouth opening <1-2 cm. He has an action 
tremor of his tongue with orolingual dyskinesias at rest. 
Hearing is intact to conversation. 

-Motor: He has a moderate irregular resting tremor which 
accentuates with  movement. Dystonic flexor posturing of 
bilateral hands (right>left, pronounced at MCP joints). Tone is 
increased in his upper extremities, slightly more pronounced on 
right and with augmentation. Bradykinetic in both upper 
extremities with finger opening/closing. Strength is as follows:
   Delt Bic Tri WrE   FFl  IP Quad Ham TA 
 L  5-    ___   ___    4+  5  
 R  5-    ___   ___    4+  5  

-Sensory: Notes symmetric sensation bilaterally to light touch

-DTRs:
  Bi ___ Pat Ach
L  2   2    2   1

R  2   2    2   1

-Coordination: No dysmetria but has fine intention tremors on 
finger-nose testing

-Gait: did not have his walker from home to evaluate baseline 
gait.

 
Pertinent Results:
___ 06:40AM BLOOD WBC-5.5 RBC-4.18* Hgb-13.8 Hct-41.4 
MCV-99* MCH-33.0* MCHC-33.3 RDW-14.6 RDWSD-53.1* Plt ___
___ 11:07AM BLOOD Neuts-68.6 Lymphs-15.2* Monos-11.5 
Eos-3.5 Baso-0.6 Im ___ AbsNeut-3.17 AbsLymp-0.70* 
AbsMono-0.53 AbsEos-0.16 AbsBaso-0.03
___ 06:40AM BLOOD Glucose-63* UreaN-13 Creat-0.8 Na-143 
K-4.8 Cl-103 HCO3-30 AnGap-10
___ 11:07AM BLOOD ALT-30 AST-43* AlkPhos-99 TotBili-0.4
___ 06:40AM BLOOD Glucose-63* UreaN-13 Creat-0.8 Na-143 
K-4.8 Cl-103 HCO3-30 AnGap-10
___ 11:41AM BLOOD Lactate-1.4
___ 11:19AM URINE Blood-NEG Nitrite-NEG Protein-30* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 11:19AM URINE RBC-2 WBC-1 Bacteri-NONE Yeast-NONE 
Epi-<1
___ 11:19AM URINE CastHy-1*
___ 11:19AM URINE Color-Yellow Appear-Clear Sp ___
 
Brief Hospital Course:
This is a ___ yo man with chorea-acanthocytosis (known to Dr. 
___ and one possible prior event concerning for a 
seizure in ___ who was brought into ___ for evaluation of an 
episode of stiffening concerning for seizure. His seizure event 
was witnessed by his nurse (___) at ___. She describes the 
event as follows: "He woke after 8:00 am, was helped to the 
bathroom and returned to his bed. Soon
after she was called into the room and the patient was stiff in 
all extremities, eyes were open and his gaze was fixed straight. 
He was not responsive to voice or tactile stimuli but was 
localizing to sternal rub. No jerking noted by her but the PCA 
noticed some twitching prior to her arrival. He was turned to 
his side
and the episode lasted about 5 min. He closed his eyes and 
continued to be unresponsive for another 5 min until EMS arrived 
when he started to open eyes in response to his name. He had a 
similar episode on ___ but ___ his nurse was not present at 
that time." In the ED he was initially drowsy and lethargic to 
response to commands, far from his baseline. He was given a 1mg 
Keppra load and started on 500mg BID dosing out of concern for 
seizure with post-ictal confusion. Impression was that his 
presenting episode may be a second episode of possible seizure 
with a history of neurological disorder that predisposes him to 
epilepsy, warranting initiation of low dose AED. Within several 
hours, his mental status returned to baseline. He underwent 
routine extended EEG which did not show any epileptiform 
discharges (official read pending). His was not orthostatic 
(Lying SBP 121 > standing 108, HR 84-->71) He did not have any 
further clinical seizure-like activity but was noted to have two 
brief oxygen desaturation events overnight, lasting less than a 
minute. Impression for his desaturation is likely related to 
respiration/apnea vs nocturnal seizures. To facilitate event 
capture, he was discharged with an ambulatory EEG to evaluate 
for seizure activity overnight, which may warrant further 
uptitration of Keppra in the outpatient setting. Decision was 
made to do this in the outpatient setting, as he expressed 
wishes to return to his home environment as soon as possible. 

Transitional issues:
- Continue Keppra 500mg BID, may need uptitration pending 
results of ambulatory EEG
- Follow up results of ambulatory EEG, to be performed on ___ 
overnight
- Return to EEG lab at ___ ___) on ___ at 11 AM to 
disconnect EEG
- Follow-up with Dr. ___ next ___ months, we will call 
to schedule you an appointment, if you do not 
  hear from us, please call ___ to schedule an 
appointment
- Continue all remaining home medications and PEG feeds as prior 
to admission

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amantadine 100 mg PO TID 
2. ClonazePAM 1 mg PO BID 
3. Levothyroxine Sodium 75 mcg PO DAILY 
4. Pramipexole 0.125 mg PO QHS 
5. ClonazePAM 2 mg PO QHS 
6. Venlafaxine XR 112.5 mg PO QHS 
7. TraZODone 50 mg PO QHS 
8. Gabapentin 200 mg PO BID 
9. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 
10. Multivitamins 1 TAB PO DAILY 
11. Polyethylene Glycol 17 g PO DAILY 
12. Gabapentin 300 mg PO QHS 
13. Senna 8.6 mg PO BID 
14. Glycopyrrolate 1 mg PO Q8H:PRN secretions 
15. Carbidopa-Levodopa (___) 1 TAB PO TID 
16. Simethicone 80 mg PO TID 

 
Discharge Medications:
1.  LevETIRAcetam 500 mg PO Q12H  
2.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
3.  Amantadine 100 mg PO TID  
4.  Carbidopa-Levodopa (___) 1 TAB PO TID  
5.  ClonazePAM 1 mg PO BID  
6.  ClonazePAM 2 mg PO QHS  
7.  Gabapentin 200 mg PO BID  
8.  Gabapentin 300 mg PO QHS  
9.  Glycopyrrolate 1 mg PO Q8H:PRN secretions  
10.  Levothyroxine Sodium 75 mcg PO DAILY  
11.  Multivitamins 1 TAB PO DAILY  
12.  Polyethylene Glycol 17 g PO DAILY  
13.  Pramipexole 0.125 mg PO QHS  
14.  Senna 8.6 mg PO BID  
15.  Simethicone 80 mg PO TID  
16.  TraZODone 50 mg PO QHS  
17.  Venlafaxine XR 112.5 mg PO QHS  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Seizures

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital for an episode of confusion 
with possible stiffening of your extremities. This event 
occurred after you woke up but was not associated with 
standing/sitting and as such was not clearly correlated to 
changes in blood pressure. This is your second episode within 3 
months, which raises concern for possible seizures. Your 
disease, Choreoacanthocytosis, increases your risk for seizures. 
As such, we started you on a seizure medication (KEPPRA).  We 
evaluated your brain activity on EEG for 60 minutes and saw 
NORMAL brain activity without signs of seizure activity. No 
further seizure-like activity was noted and your mental status 
returned to baseline within a few hours.

We monitored you overnight and detected 2 very brief episodes of 
low oxygen.  This could be related to your breathing during 
sleep or possibly (and less likely) due to short lasting 
seizures during sleep. To better characterize these spells, we 
ordered a 24-hour ambulatory EEG monitoring so that we can see 
how you sleep and how your brain functions during sleep while 
you are in your home environment.  You will need to return to 
EEG lab for removal of leads on ___ at 11 AM.  Your home 
facility ___ at ___ was notified to arrange 
transportation.

Your primary neurologist Dr. ___ has been notified of your 
hospitalization and medication changes. Please follow up with 
him as scheduled below. 

Your sincerely,
___ Neurology team
 
Followup Instructions:
___